US07423150B2
To 3-(2-fluoro-5-nitrophenyl)-tetrahydro-3-methylfuran in methanol was added a catalytic amount of palladium on carbon (10%). The mixture was allowed to stir for 1 h at room temperature under hydrogen atmosphere. Mixture was filtered though celite and concentrated to afford 4-fluoro-3-(tetrahydro-3-methylfuran-3-yl)benzenamine.

reactant | 3-(2-fluoro-5-nitrophenyl)-tetrahydro-3-methylfuran | FC1=C(C=C(C=C1)[N+](=O)[O-])C1(COCC1)C | C11H12FNO3
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-fluoro-3-(tetrahydro-3-methylfuran-3-yl)benzenamine | FC1=C(C=C(C=C1)N)C1(COCC1)C | C11H14FNO
